US06995162B2
N-[4-tert-Butyl-3-(1-methyl-piperidin-4-ylmethoxy)-phenyl]-2-chloro-nicotinamide was prepared from 4-tert-butyl-3-(1-methyl-piperidin-4-ylmethoxy)-phenylamine by a procedure similar to that described in the preparation of 1-Boc-4-{3-[(2-chloro-pyridine-3-carbonyl)-amino]-5-trifluoromethyl-phenoxy}-piperidine.

reactant | 4-tert-butyl-3-(1-methyl-piperidin-4-ylmethoxy)-phenylamine | C(C)(C)(C)C1=C(C=C(C=C1)N)OCC1CCN(CC1)C | C17H28N2O
reactant | 1-Boc-4-{3-[(2-chloro-pyridine-3-carbonyl)-amino]-5-trifluoromethyl-phenoxy}-piperidine | C(=O)(OC(C)(C)C)N1CCC(CC1)OC1=CC(=CC(=C1)C(F)(F)F)NC(=O)C=1C(=NC=CC1)Cl | C23H25ClF3N3O4
product | N-[4-tert-Butyl-3-(1-methyl-piperidin-4-ylmethoxy)-phenyl]-2-chloro-nicotinamide | C(C)(C)(C)C1=C(C=C(C=C1)NC(C1=C(N=CC=C1)Cl)=O)OCC1CCN(CC1)C | C23H30ClN3O2
